US09260412B2
Preparation of 2-(bromomethyl)-5-(difluoromethoxy)-1,3-difluorobenzene
162 mg [4-(difluoromethoxy)-2,6-difluorophenyl]methanol (0.769 mmol, 1.0 eq.) were dissolved in 0.348 mL hydrogen bromide (2.12 mmol, 2.8 eq.). and stirred at rt over night. The reaction mixture was diluted with diethylether and stirred for 5 minutes. The aqueous layer was washed twice with diethylether. The combined organic layers were washed with brine, dried over a silicon filter and concentrated in vacuo to provide the 149 mg (0.51 mmol, 67%) of the crude product, which was used without further purification.

reactant | [4-(difluoromethoxy)-2,6-difluorophenyl]methanol | 0.769 mmol, 162 mg, 1.0 eq. | FC(OC1=CC(=C(C(=C1)F)CO)F)F | C8H6F4O2
reactant | hydrogen bromide | 2.12 mmol, 0.348 mL, 2.8 eq. | Br | BrH
solvent | diethylether | C(C)OCC | C4H10O
product | 2-(bromomethyl)-5-(difluoromethoxy)-1,3-difluorobenzene | 0.51 mmol, 149 mg, 67% | BrCC1=C(C=C(C=C1F)OC(F)F)F | C8H5BrF4O
